US05677299
To a solution of 7-chloro-1-[6-(2-carboxymethoxybenzoylamino)nicotinoyl]-2,3,4,5-tetrahydro-1H-benzazepine (0.4 g) in dichloromethane (10 ml) is added with stirring N,N-bis(2-oxo-3-oxazolidinyl)phosphinic chloride (0.25 g) under ice-cooling, and the mixture is stirred at room temperature for 15 minutes. Subsequently, to the reaction mixture is added N-methylpiperazine (0.11 ml), and thereto is added triethylamine (0.23 ml). The mixture is stirred at room temperature overnight, and thereto is added water. The mixture is extracted with dichloromethane, and the extract is washed successively with diluted aqueous sodium hydroxide solution and water, dried over magnesium sulfate, and evaporated under reduced pressure to remove the solvent. The residue is purified by silica gel column chromatography, and recrystallized from dichloromethane-diethyl ether to give 7-chloro-1-{6-[2-(4-methyl-1-piperazinyl)carbonylmethoxybenzoylamino]nicotinoyl}-2,3,4,5-tetrahydro-1H-benzazepine (390 mg) as white powder.

reactant | 7-chloro-1-[6-(2-carboxymethoxybenzoylamino)nicotinoyl]-2,3,4,5-tetrahydro-1H-benzazepine | 0.4 g | ClC=1C=CC2=C(CCCCN2C(C2=CN=C(C=C2)NC(C2=C(C=CC=C2)OCC(=O)O)=O)=O)C1 | C25H22ClN3O5
reactant | N,N-bis(2-oxo-3-oxazolidinyl)phosphinic chloride | 0.25 g | C1COC(=O)N1P(=O)(N2CCOC2=O)Cl | C6H8ClN2O5P
reactant | N-methylpiperazine | 0.11 ml | CN1CCNCC1 | C5H12N2
reactant | triethylamine | 0.23 ml | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | water | O | H2O
product | 7-chloro-1-{6-[2-(4-methyl-1-piperazinyl)carbonylmethoxybenzoylamino]nicotinoyl}-2,3,4,5-tetrahydro-1H-benzazepine | 390 mg | ClC=1C=CC2=C(CCCCN2C(C2=CN=C(C=C2)NC(C2=C(C=CC=C2)OCC(=O)N2CCN(CC2)C)=O)=O)C1 | C30H32ClN5O4
